US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-oxo-2-(pyrrolidin-1-yl)ethyl)benzenesulfonamide
To a stirred solution of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (360 mg, 1 mmol) and pyrrolidine (0.5 mL, 6 mmol) in 10 mL of DMF was added PyBOP (780 mg, 1.5 mmol) and TEA (0.5 mL, 3.56 mmol). The reaction mixture was stirred for 16 hours. After water was added, the reaction mixture was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated. The crude residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the desired product as a white powder (28 mg, yield 7%). MS calcd for (C19H22BN3O5S): 415.1. MS found (ESI negative): (M−H)−=414.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.77 (s, 1H), 9.17 (bs, 1H), 7.44 (m, 2H), 7.23 (d, J=8 Hz, 1H), 7.11 (dd, J=8, 2 Hz, 1H), 6.37 (m, 2H)), 4.87 (s, 2H), 3.82 (s, 2H), 3.32 (m, 4H), 1.81 (m, 4H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 1 mmol, 360 mg | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | pyrrolidine | 6 mmol, 0.5 mL | N1CCCC1 | C4H9N
reactant | PyBOP | 1.5 mmol, 780 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-oxo-2-(pyrrolidin-1-yl)ethyl)benzenesulfonamide | 28 mg, yield 7% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC(N1CCCC1)=O | C19H22BN3O5S
